US05804585
D. N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-{2-[2-(acetoxy)ethyl]-4,5-(methylenedioxy)benzyl}thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 5(A) using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-{α-acetoxy-2-[2-(acetoxy)ethyl]-4,5-(methylenedioxy)benzyl}thieno[2,3-b]-pyridine-3-sulfonamide (0.1 3 g, 0.19 mmoles), CH2Cl2 (3 ml), triethylsilane (0.30 ml, 1.9 mmoles) and boron trifluoride etherate (0.12 ml, 0.95 mmoles), giving 0.12 g (96%) of the title compound as a yellow oil.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-{α-acetoxy-2-[2-(acetoxy)ethyl]-4,5-(methylenedioxy)benzyl}thieno[2,3-b]-pyridine-3-sulfonamide | 0.19 mmoles, 3 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=C(C=C1C(=C2)OCO1)CCOC(C)=O)OC(C)=O)COCCOC)C | C29H30ClN3O11S2
reactant | triethylsilane | 1.9 mmoles, 0.30 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 0.95 mmoles, 0.12 ml | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-{2-[2-(acetoxy)ethyl]-4,5-(methylenedioxy)benzyl}thieno[2,3-b]pyridine-3-sulfonamide | 0.12 g, 96% | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C1C(=C2)OCO1)CCOC(C)=O)COCCOC)C | C27H28ClN3O9S2
